simulator lang=spectre
global 0

ahdl_include "dut.va"

Vvdd (vdd 0) vsource dc=0.9
Vvss (vss 0) vsource dc=0
Vinput0 (input0 0) vsource type=pulse val0=0 val1=0.9 delay=1n rise=50p fall=50p width=1n period=2n
Vinput1 (input1 0) vsource type=pulse val0=0 val1=0.9 delay=1n rise=50p fall=50p width=2n period=4n
Vinput2 (input2 0) vsource type=pulse val0=0 val1=0.9 delay=1n rise=50p fall=50p width=4n period=8n
Vinput3 (input3 0) vsource type=pulse val0=0 val1=0.9 delay=1n rise=50p fall=50p width=8n period=16n
Vinput4 (input4 0) vsource type=pulse val0=0 val1=0.9 delay=1n rise=50p fall=50p width=16n period=32n
Vinput5 (input5 0) vsource type=pulse val0=0 val1=0.9 delay=1n rise=50p fall=50p width=32n period=64n

XDUT (input0 input1 input2 input3 input4 input5 vdd vss recon_value) v2_binary_dac_weighted_sum_6b_005

tran tran stop=120n maxstep=500p
save input0 input1 input2 input3 input4 input5 recon_value
